US08008342B2
(vii) (2,2-Diphenyl)ethyl alcohol
To lithium aluminum hydride (2.85 g, 23.56 mmol) in anhydrous diethyl ether (150 mL) was added, as a powder, diphenylacetic acid (5.0 g, 56 mmol). The resulting reaction mixture was gently refluxed for one hour. The reaction was quenched with sodium sulfate saturated aqueous solution and the resulting precipitate was filtered off. The filtrate was concentrated in vacuo to yield 4.0 g (86% yield) of the title compound.

reactant | lithium aluminum hydride | 23.56 mmol, 2.85 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diphenylacetic acid | 56 mmol, 5.0 g | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | (2,2-Diphenyl)ethyl alcohol | 4.0 g, 86% yield | C1(=CC=CC=C1)C(CO)C1=CC=CC=C1 | C14H14O
